US08227468B2
tert-Butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]-3-oxo-piperazine-1-carboxylate
Purge a mixture of 4-fluoro-N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]benzamide (8.70 g, 21.9 mmol), 4-N-boc-2-oxo-piperazine (4.61 g, 22.3 mmol), and potassium carbonate (6.12 g, 43.8) in N-methylpyrrolidone (100 mL) with nitrogen gas. Add copper (I) iodide (2.11 g, 11.0 mmol) and sym-dimethylethylene diamine (2.34 mL, 21.9 mmol). Seal the flask with a septum and stir at 100° C. for 6 hr. Cool the mixture to room temperature and dilute with ethyl acetate (100 mL). Wash the organic portion with water (3×100 mL), then brine, and then dry over sodium sulfate, filter, and concentrate to dryness. Purify the residue by column chromatography (120 g silica, 2 to 5% methanol/chloroform) to obtain the title compound (7.63 g, 74%). LC-ES/MS m/z 470 [M+H]+.

reactant | 4-fluoro-N-[(1S,2S)-2-hydroxy-6-iodo-indan-1-yl]benzamide | 21.9 mmol, 8.70 g | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)I)O)C=C1 | C16H13FINO2
reactant | 4-N-boc-2-oxo-piperazine | 22.3 mmol, 4.61 g | C(=O)(OC(C)(C)C)N1CC(NCC1)=O | C9H16N2O3
reactant | potassium carbonate | 6.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | sym-dimethylethylene diamine | 21.9 mmol, 2.34 mL | CNCCNC | C4H12N2
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 11.0 mmol, 2.11 g | [Cu]I
product | tert-Butyl 4-[(2S,3S)-3-[(4-fluorobenzoyl)amino]-2-hydroxy-indan-5-yl]-3-oxo-piperazine-1-carboxylate | 7.63 g, 74% | FC1=CC=C(C(=O)N[C@@H]2[C@H](CC3=CC=C(C=C23)N2C(CN(CC2)C(=O)OC(C)(C)C)=O)O)C=C1 | C25H28FN3O5
